US08309718B2
3-(4-(2-(3-aminophenylamino)pyrimidin-4-yl)-1H-pyrazol-1-yl)-3-cyclopentylpropanenitrile
A mixture of 3-(4-(1-(2-cyano-1-cyclopentylethyl)-1H-pyrazol-4-yl)pyrimidin-2-ylamino)benzoic acid (228 mg, 0.566 mmol), and diphenylphosphonic azide (0.18 mL, 0.85 mmol), triethylamine (0.16 mL, 1.1 mmol) in 1,4-dioxane (4.2 mL) was stirred at room temperature overnight. To the resulting mixture was added water (0.36 mL). The reaction was refluxed overnight. The crude racemic mixture was used directly in next step. An analytically pure sample was obtained by RP-HPLC (pH 2). LCMS (M+H) 374.1.

reactant | 3-(4-(1-(2-cyano-1-cyclopentylethyl)-1H-pyrazol-4-yl)pyrimidin-2-ylamino)benzoic acid | 0.566 mmol, 228 mg | C(#N)CC(C1CCCC1)N1N=CC(=C1)C1=NC(=NC=C1)NC=1C=C(C(=O)O)C=CC1 | C22H22N6O2
reactant | diphenylphosphonic azide | 0.85 mmol, 0.18 mL | C1=CC=C(C=C1)OP(=O)(N=[N+]=[N-])OC2=CC=CC=C2 | C12H10N3O3P
reactant | triethylamine | 1.1 mmol, 0.16 mL | C(C)N(CC)CC | C6H15N
reactant | water | 0.36 mL | O | H2O
solvent | 1,4-dioxane | 4.2 mL | O1CCOCC1 | C4H8O2
product | 3-(4-(2-(3-aminophenylamino)pyrimidin-4-yl)-1H-pyrazol-1-yl)-3-cyclopentylpropanenitrile | NC=1C=C(C=CC1)NC1=NC=CC(=N1)C=1C=NN(C1)C(CC#N)C1CCCC1 | C21H23N7
